US04156732
2-Ethyl-3-(3-butylsulfamoylbenzoyl)-benzo[b]furan
is obtained as described in Example 1 from 10 g of 3-butylsulfamoyl-4-chlorobenzoyl chloride and 5.1 g of 2-ethylbenzo[b]-furan in the presence of 9.4 g of aluminum chloride, in the form of a colorless to slightly yellow viscous oil.

reactant | 3-butylsulfamoyl-4-chlorobenzoyl chloride | 10 g | C(CCC)NS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1Cl | C11H13Cl2NO3S
reactant | 2-ethylbenzo[b]-furan | 5.1 g | C(C)C1=CC2=C(O1)C=CC=C2 | C10H10O
reactant | aluminum chloride | 9.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-Ethyl-3-(3-butylsulfamoylbenzoyl)-benzo[b]furan | C(C)C1=C(C2=C(O1)C=CC=C2)C(C2=CC(=CC=C2)S(NCCCC)(=O)=O)=O | C21H23NO4S
